US08754100B2
Synthesis of 8-biphenyl-3-yl-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyrazine
To a solution of 7-benzyl-8-biphenyl-3-yl-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyrazine (541 mg) and acetic acid (1.32 ml) in methanol (52 ml) was added 20% palladium hydroxide (743 mg) and the reaction mixture was stirred at room temperature in a hydrogen atmosphere for 4 days. After the reaction atmosphere was replaced with nitrogen, ethyl acetate was added to the reaction mixture. The catalyst was removed by filtration by Celite. The filtrate was concentrated under reduced pressure and the residue was purified by NH silica gel column chromatography to obtain the title compound (45 mg) and the raw material. (291 mg)

reactant | 7-benzyl-8-biphenyl-3-yl-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyrazine | 541 mg | C(C1=CC=CC=C1)N1C(C=2N(CC1)N=C(N2)C2=NC(=C(C=C2)N2C=NC(=C2)C)OC)C=2C=C(C=CC2)C2=CC=CC=C2 | C34H31N7O
reactant | acetic acid | 1.32 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 52 ml | CO | CH4O
catalyst | palladium hydroxide | 743 mg | [OH-].[Pd+2].[OH-]
product | 8-biphenyl-3-yl-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyrazine | 45 mg | C1(=CC(=CC=C1)C1C=2N(CCN1)N=C(N2)C2=NC(=C(C=C2)N2C=NC(=C2)C)OC)C2=CC=CC=C2 | C27H25N7O
